.inc ../../magic/comparator/strong_arm_latch.pex.spice


** sch_path: /home/jrsharp/home_mnt/asic/high_speed_comparator/xschem/high_speed_comp_top.sch
.subckt high_speed_comp_top CLK VINP VINN VDD COMP_OUT VSS
*.PININFO VINP:I VINN:I VDD:I VSS:I CLK:I COMP_OUT:O
x1 VDD CLK_PRIME net1 net2 VSS VINP VINN strong_arm_latch
x2 VDD net1 net2 VOUT VSS post_amplifier
x3 CLK VOUT GND GND VDD VDD COMP_OUT sky130_fd_sc_hd__dfxtp_2
x4 CLK GND GND VDD VDD CLK_PRIME sky130_fd_sc_hd__clkinv_4
x5 VSS VSS VDD VDD sky130_fd_sc_hd__decap_3
x6 VSS VSS VDD VDD sky130_fd_sc_hd__fill_1
x7 VSS VSS VDD VDD sky130_fd_sc_hd__decap_3
x8 VSS VSS VDD VDD sky130_fd_sc_hd__fill_1
.ends

* expanding   symbol:  post_amplifier.sym # of pins=5
** sym_path: /home/jrsharp/home_mnt/asic/high_speed_comparator/xschem/post_amplifier.sym
** sch_path: /home/jrsharp/home_mnt/asic/high_speed_comparator/xschem/post_amplifier.sch
.subckt post_amplifier VDD VLAT_PLUS VLAT_MINUS VOUT VSS
*.PININFO VLAT_PLUS:I VLAT_MINUS:I VDD:I VSS:I VOUT:O
XM1 net1 VLAT_PLUS net4 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net3 VLAT_MINUS net4 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net4 net1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 VLAT_PLUS net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net3 VLAT_MINUS net2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 VOUT net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 VOUT net3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.end
