.inc ../../magic/comparator/strong_arm_latch.pex.spice
.inc ../../magic/comparator/post_amplifier.pex.spice


** sch_path: /home/jrsharp/home_mnt/asic/high_speed_comparator/xschem/high_speed_comp_top.sch
.subckt high_speed_comp_top CLK VINP VINN VDD COMP_OUT VSS
*.PININFO VINP:I VINN:I VDD:I VSS:I CLK:I COMP_OUT:O
x1 VDD CLK_PRIME net1 net2 VSS VINP VINN strong_arm_latch
x2 VDD net1 net2 VOUT VSS post_amplifier
x3 CLK VOUT GND GND VDD VDD COMP_OUT sky130_fd_sc_hd__dfxtp_2
x4 CLK GND GND VDD VDD CLK_PRIME sky130_fd_sc_hd__clkinv_4
x5 VSS VSS VDD VDD sky130_fd_sc_hd__decap_3
x6 VSS VSS VDD VDD sky130_fd_sc_hd__fill_1
x7 VSS VSS VDD VDD sky130_fd_sc_hd__decap_3
x8 VSS VSS VDD VDD sky130_fd_sc_hd__fill_1
.ends

.end
